US06875769B2
4-Chloro-2-methyl-8-(2,4,6-trimethyl-phenyl)-quinoline
A mixture of 2-methyl-8-(2,4,6-trimethyl-phenyl)-quinolin-4-ol(335 mg, 1.21 mmol) and POCl3(2.5 ml) was heated in 130° C. oil bath for 3 hours. The mixture was cooled and poured into ice-water and extracted with ethyl acetate. The organic layer was washed with brine, dried and concentrated to give 350 mg of crude material as a brown oil. The oil residue was purified through silica gel column chromatography using chloroform as eluent to give 316 mg (87%) of the title compound as a yellow oil. 1H NMR (CDCl3) δ 8.20(d,1H), 7.60(m,1H), 7.47(d,1H), 7.35(s,1H), 6.97(s,2H), 2.54(s,3H), 2.36(s,3H), 1.86(s,6H)ppm.

reactant | 2-methyl-8-(2,4,6-trimethyl-phenyl)-quinolin-4-ol | 1.21 mmol, 335 mg | CC1=NC2=C(C=CC=C2C(=C1)O)C1=C(C=C(C=C1C)C)C | C19H19NO
reactant | POCl3 | 2.5 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-2-methyl-8-(2,4,6-trimethyl-phenyl)-quinoline | 316 mg, 87% | ClC1=CC(=NC2=C(C=CC=C12)C1=C(C=C(C=C1C)C)C)C | C19H18ClN
